*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZS250ARA561MHA0G
*//   Date        : 2020/12/23
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZS250ARA561MHA0G_20deg-C 1 2

C1 4 2 1.01e-04
C2 5 2 3.61e-04
C3 6 2 2.77e-05
R1 3 4 6.21e-02
R2 4 5 3.42e-02
R3 5 6 5.36e+00
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZS250ARA561MHA0G_-55deg-C 1 2

C1 4 2 7.44e-07
C2 5 2 5.45e-05
C3 6 2 3.69e-04
R1 3 4 5.58e-01
R2 4 5 1.80e-01
R3 5 6 3.96e-01
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZS250ARA561MHA0G_105deg-C 1 2

C1 4 2 1.26e-04
C2 5 2 3.83e-04
C3 6 2 6.11e-05
R1 3 4 2.90e-02
R2 4 5 1.44e-02
R3 5 6 1.81e+00
L1 1 3 3.90e-09

.ENDS
*$
